US05939392
TfO-CH2COOMe
10.09 ml (60 mmol) trifluorometansulfonic anhydrid dissolved in CH2Cl2 was added dropwise to a mixture of 4.05 ml (50 mmol) methylglycolate and 4.04 ml (50 mmol) pyridin in CH2Cl2 (totally 62.5 ml) at 0° C. during 25 minutes, and thereafter stirred at 0° C. for 1 H. After washing with 0.3 M KHSO4 and saturated NA2CO3, drying (Na2SO4) and filtration, evaporation of the solvent in vacuo gave 9.94 g (90%) of the title compound.

reactant | trifluorometansulfonic anhydrid | 60 mmol, 10.09 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methylglycolate | 50 mmol, 4.05 ml | CC(C(=O)[O-])O
reactant | pyridin | 50 mmol, 4.04 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | TfO-CH2COOMe | 9.94 g, 90% | S(=O)(=O)(C(F)(F)F)OCC(=O)OC | C4H5F3O5S
